US09328067B2
4-Amino-3-mercaptobenzonitrile
A mixture of 6-cyanobenzothiazole (532 mg, 3.33 mmol) and hydrazine monohydrate (1.2 ml, 24.76 mmol) in EtOH (10 ml) was heated at 80° C. under N2 atmosphere for 2 hours. The solvent was evaporated, H2O was added to the residue, and the solution was adjusted to pH˜5-7 with AcOH. The resulting yellow precipitate was filtered and washed with H2O, dried under high vacuum to yield the title compound as yellow solid (486 mg, 97%).

reactant | 6-cyanobenzothiazole | 3.33 mmol, 532 mg | C(#N)C1=CC2=C(N=CS2)C=C1 | C8H4N2S
reactant | hydrazine monohydrate | 24.76 mmol, 1.2 ml | O.NN
solvent | EtOH | 10 ml | CCO | C2H6O
product | 4-Amino-3-mercaptobenzonitrile | 486 mg, 97% | NC1=C(C=C(C#N)C=C1)S | C7H6N2S
